US07495103B2
A stirring mixture of oxindole (5.7 g, 43 mmol) and Raney nickel (10 g) in ethane-1,2-diol (100 mL) was heated in an autoclave. After the reaction was complete, the mixture was filtered and the excess of diol was removed under vacuum. The residual oil was triturated with hexane to give 3-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one as a colorless crystalline solid (4.6 g, 70%).

reactant | oxindole | 43 mmol, 5.7 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | ethane-1,2-diol | 100 mL | C(CO)O | C2H6O2
catalyst | Raney nickel | 10 g | [Ni] | Ni
product | 3-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one | 4.6 g, 70% | OCCC1C(NC2=CC=CC=C12)=O | C10H11NO2
